US05840991
3,4,5-Trimethoxybenzyl 4-hydroxyphenyl thioether (12 g, 39.2 mmol), prepared as described in Example 1, was dissolved in 240 ml of dry methylene chloride, and cooled to -78° C. A solution of borontribromide (18.6 ml, 195.6 mmol) in 60 ml of dry methylene chloride was added dropwise to the above solution. The mixture was warmed to room temperature, stirred overnight, cooled to 0° C., and added 300 ml of water. The aqueous layer was then extracted twice with 200 ml of ethyl acetate, dried over magnesium sulfate, concentrated and purified on silica gel column chromatography (ethyl acetate/n-hexane=2/1) to give 8.6 g (77% yield) of 3,4,5-trihydroxybenzyl 4-hydroxyphenyl thioether as a white powder.

reactant | 3,4,5-Trimethoxybenzyl 4-hydroxyphenyl thioether | 39.2 mmol, 12 g | OC1=CC=C(C=C1)SCC1=CC(=C(C(=C1)OC)OC)OC | C16H18O4S
reactant | water | 300 ml | O | H2O
solvent | methylene chloride | 240 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | 3,4,5-trihydroxybenzyl 4-hydroxyphenyl thioether | 8.6 g, 77% yield | OC1=CC=C(C=C1)SCC1=CC(=C(C(=C1)O)O)O | C13H12O4S
